US05482936
A large excess (about 10 fold) of both sodium iodide and potassium carbonate were added to a solution of N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine (about 0.5 g) in acetone (about 75 mL). The reaction mixture was heated at reflux overnight, diluted with additional acetone, filtered and then concentrated under vacuum. The residue was washed with methylene chloride to recover the product from salts then purified by column chromatography (silica gel eluting with 3% ethyl acetate in methylene chloride v/v) to provide 0.35 g of N,N-bis(phenylmethyl)-8,9,10,11 tetrahydro-10-methylpyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine.

reactant | sodium iodide | [I-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-bis(phenylmethyl)-2-(4-chloro-3-methylbutyl)-1H-imidazo[4,5-c]quinolin-4-amine | about 0.5 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)CCC(CCl)C)CC2=CC=CC=C2 | C29H29ClN4
reactant | acetone | about 75 mL | CC(=O)C | C3H6O
product | N,N-bis(phenylmethyl)-8,9,10,11 tetrahydro-10-methylpyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine | 0.35 g | C1(=CC=CC=C1)CN(C=1C=CC=C2C3=C(C=NC12)N=C1N3CC(CC1)C)CC1=CC=CC=C1 | C29H28N4
